US05272270
rel-(4R,5S)-4,5-bis(3'-Benzyloxy-4'-methoxyphenyl)-3-(2'-hydroxyethyl)oxazolidine-2-one
Mixture: 100 mg of rel-(4R,5S)-4,5-bis(3'-benzyloxy-4'-methoxyphenyl)oxazolidin-2-one, 5 ml of ethylene oxide, 15 ml of tetrahydrofuran, 5 mg of methylammonium chloride.

reactant | rel-(4R,5S)-4,5-bis(3'-benzyloxy-4'-methoxyphenyl)oxazolidin-2-one | 100 mg | C(C1=CC=CC=C1)OC=1C=C(C=CC1OC)[C@H]1NC(O[C@H]1C1=CC(=C(C=C1)OC)OCC1=CC=CC=C1)=O | C31H29NO6
reactant | ethylene oxide | 5 ml | C1CO1 | C2H4O
reactant | methylammonium chloride | 5 mg | [Cl-].C[NH3+]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | rel-(4R,5S)-4,5-bis(3'-Benzyloxy-4'-methoxyphenyl)-3-(2'-hydroxyethyl)oxazolidine-2-one | C(C1=CC=CC=C1)OC=1C=C(C=CC1OC)[C@H]1N(C(O[C@H]1C1=CC(=C(C=C1)OC)OCC1=CC=CC=C1)=O)CCO | C33H33NO7
